US08314128B2
b. 2,2-Diphenyl-4-oxo-butyric acid methyl ester
A mixture of 4-bromo-2,2-diphenyl-butyric acid methyl ester (0.10 g, 0.300 mmol) and trimethylamine N-oxide (0.09 g, 1.2 mmol) in dimethyl sulfoxide (0.5 mL, 7 mmol) was stirred overnight at room temperature. The reaction was quenched with cold brine. The crude product was extracted three times with dichloromethane, dried over a bed of Na2SO4, filtered, and concentrated to dryness to provide crude title compound which was used without further purification.

reactant | 4-bromo-2,2-diphenyl-butyric acid methyl ester | 0.300 mmol, 0.10 g | COC(C(CCBr)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17BrO2
reactant | trimethylamine N-oxide | 1.2 mmol, 0.09 g | C[N+](C)(C)[O-] | C3H9NO
reactant | dimethyl sulfoxide | 7 mmol, 0.5 mL | CS(=O)C | C2H6OS
product | 2,2-Diphenyl-4-oxo-butyric acid methyl ester | COC(C(CC=O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H16O3
